US07342115B2
A stirred solution of LiAlH4 (1M in THF, 3 mL) in ether (10 mL) is treated with AlCl3 (133 mg) under nitrogen. After 30 minutes, 2-chloro-6-(2,6-diethyl-phenyl)-4-ethyl-nicotinic acid methyl ester (250 mg) in 5 mL of ether is added. The resulting mixture is heated at reflux for 2 hours. On cooling, Na2SO4.10H2O (1.0 g) is added. The mixture is stirred at room temperature for one hour and filtered through Celite. The filtrate is concentrated in vacuo. CH2Cl2 (5 mL) and SOCl2 (0.5 mL) are added to the residue. The resulting mixture is stirred at room temperature for one hour. The volatile material is removed in vacuo. K2CO3 (500 mg) and (S)-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine (200 mg) in DMF (5 mL) are added to the residue and the reaction mixture is stirred at room temperature overnight. Hexane (20 mL) and water (5 mL) are added to the mixture. The organic layer is separated, washed once with brine, dried (Na2SO4) and concentrated. The crude product is purified by PTLC (4:1 hexane/EtOAc) to give (S)-[2-chloro-6-(2,6-diethyl-phenyl)-4-ethyl-pyridin-3-ylmethyl]-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine. 1H NMR (CDCl3) 7.62 (d, 1H), 7.11-7.30 (m, 7H), 4.02 (m, 3H), 3.01 (m, 2H), 2.80 (m, 2H), 2.39 (m, 4H), 2.15 (m, 5H), 1.85-2.00 (m, 2H), 1.33 (t, 3H), 1.09 (t, 6H).

reactant | LiAlH4 | 1M, 3 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | AlCl3 | 133 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-chloro-6-(2,6-diethyl-phenyl)-4-ethyl-nicotinic acid methyl ester | 250 mg | COC(C1=C(N=C(C=C1CC)C1=C(C=CC=C1CC)CC)Cl)=O | C19H22ClNO2
reactant | ether | 10 mL | CCOCC | C4H10O
reactant | ether | 5 mL | CCOCC | C4H10O
product | (S)-[2-chloro-6-(2,6-diethyl-phenyl)-4-ethyl-pyridin-3-ylmethyl]-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | ClC1=NC(=CC(=C1CN([C@H]1CCCC2=CC=CC=C12)C)CC)C1=C(C=CC=C1CC)CC | C29H35ClN2
